US06642229B2
Boron trifluoride etherate (17.03 g, 120.0 mmol) was added dropwise over 15 min to a cooled (−40° C.) solution of triethyl orthoformate (14.82 g, 100.0 mmol) in dichloromethane (50 ml). Stirring was continued for 10 min then the solution was transferred to an ice-water bath and stirred at 0° C. for 20 min. The mixture was cooled to −78° C., and 3,3-dimethoxy-2-butanone (6.61 g, 50.0 mmol) added followed by dropwise addition of N,N-diisopropylethylamine (19.39 g, 150.0 mmol) over 15 min. Stirring was continued for 1 h then the solution was poured onto a vigorously stirred mixture of saturated sodium hydrogencarbonate solution (500 ml) and dichloromethane (200 ml). The organic phase was separated, washed with ice-cold 1M sulfuric acid solution (2×500 ml) and ice-cold water (2×500 ml), dried over anhydrous sodium sulfate solution and evaporated to give 1,1-diethoxy-4,4-dimethoxypentan-3-one (11.72 g, 100%) as an orange oil.

reactant | Boron trifluoride etherate | 120.0 mmol, 17.03 g | B(F)(F)F.CCOCC
reactant | triethyl orthoformate | 100.0 mmol, 14.82 g | C(OCC)(OCC)OCC | C7H16O3
reactant | 3,3-dimethoxy-2-butanone | 50.0 mmol, 6.61 g | COC(C(C)=O)(C)OC | C6H12O3
reactant | N,N-diisopropylethylamine | 150.0 mmol, 19.39 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogencarbonate | 500 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1,1-diethoxy-4,4-dimethoxypentan-3-one | 11.72 g, 100% | C(C)OC(CC(C(C)(OC)OC)=O)OCC | C11H22O5
